US07531577B2
N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide and triethyl amine (0.2 ml, 1.55 mmol) in dichloroethane are stirred and cooled in an ice-bath. Ethylgloxylate is added, followed by sodiumtriacetoxyborohydride. The reaction is stirred and then quenched by addition of 2% sodium carbonate solution. The mixture is extracted with ethyl acetate, and the organic layer is dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give [(6-Benzenesulfonylamino-naphthalen-1-ylmethyl)-amino]-acetic acid ethyl ester.

reactant | N-(5-Aminomethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide | NCC1C=2C=CC(=CC2CCC1)NS(=O)(=O)C1=CC=CC=C1 | C17H20N2O2S
reactant | triethyl amine | 1.55 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | sodiumtriacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | [(6-Benzenesulfonylamino-naphthalen-1-ylmethyl)-amino]-acetic acid ethyl ester | C(C)OC(CNCC1=CC=CC2=CC(=CC=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C21H22N2O4S
